US07317014B2
Synthesis of 4-chloro-5,6-diphenyl-2-(trifluoromethyl)pyrimidine
5,6-Diphenyl-2-(trifluoromethyl)pyrimidin-4(3H)-one (8.0 g, 25 mmol) (synthesized according to the procedure described in our PCT application No. IB03/01289) was refluxed in phosphorus oxychloride (15 ml) for 5 hours and allowed to cool to room temperature. The reaction mixture was poured onto ice-water mixture and neutralised with saturated sodium bicarbonate solution. The solid thus separated was extracted with dichloromethane. The organic extract was washed with water, dried over anhydrous sodium sulphate and concentrated under reduced pressure to give crude product, which was purified by column chromatography to afford the title compound (6.5 g, 76.6%, HPLC purity 99.8%), mp: 105-107° C.

reactant | 5,6-Diphenyl-2-(trifluoromethyl)pyrimidin-4(3H)-one | 25 mmol, 8.0 g | C1(=CC=CC=C1)C=1C(NC(=NC1C1=CC=CC=C1)C(F)(F)F)=O | C17H11F3N2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | phosphorus oxychloride | 15 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-5,6-diphenyl-2-(trifluoromethyl)pyrimidine | 6.5 g, 76.6% | ClC1=NC(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)C(F)(F)F | C17H10ClF3N2
